US05521179
2-[3-Benzyloxycarbonylamino-5-(3-acetoxybenzyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
2-[3-Benzyloxycarbonylamino-5-(3-hydroxybenzyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide was acylated using conditions similar to those described in Example 14.b., substituting acetic anhydride for phenylacetyl chloride, to give the title compound; NMR: 2.25 (s,3 and m,1), 6.95-7.41 (m,10); MS: m/z=602(M+1).

reactant | 2-[3-Benzyloxycarbonylamino-5-(3-hydroxybenzyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C=C(C1)CC1=CC(=CC=C1)O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C28H28F3N3O6
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 2-[3-Benzyloxycarbonylamino-5-(3-acetoxybenzyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C=C(C1)CC1=CC(=CC=C1)OC(C)=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C30H30F3N3O7
